US06919365B2
3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione (Compound 2)
0.5 g of 5,5-diphenylimidazolidine-2,4-dione was dissolved in tetrahydrofuran (5 mL), and sodium hydride (60%, in oil) (87 mg) was added at 0° C. under ice-cooling. After stirred for 30 minutes, 1-naphthoyl chloride (396 mg) was added at 0° C., followed by stirring at room temperature for 2.5 hours. After water was added carefully, ethyl acetate (200 mL) was added, and the layers were separated. The resulting organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. Further purification by silica gel chromatography (hexane: ethyl acetate=7:3) afforded 544 mg of white powder.

reactant | 5,5-diphenylimidazolidine-2,4-dione | 0.5 g | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | sodium hydride | 87 mg | [H-].[Na+]
reactant | 1-naphthoyl chloride | 396 mg | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione | 544 mg | C1(=CC=CC2=CC=CC=C12)C(=O)N1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H18N2O3
